US07342014B2
2-Chloro-N,N-dimethyl-4,5,6,7-tetrahydrobenzothiazole-6-amine
2-Chloro-4,7-dihydro-1,3-benzothiazol-6(5H)-one (Helv. Cim. Acta., 1994, Vol. 77, p. 1256) (2.0 g) was dissolved in methanol (100 ml), and ammonium acetate (8.2 g) and sodium cyanoborohydride (4.0 g) were added to heat the mixture under reflux for 20 hours. Hydrochloric acid was added to the reaction mixture to decompose excessive sodium cyanoborohydride before the solvent was distilled off under reduced pressure. The residue was alkalified with a 1N solution of sodium hydroxide and then extracted with methylene chloride. The resultant organic layer was dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure to obtain a pale yellow oil. This oil was dissolved in methanol (50 ml), and an aqueous solution (4.29 g) of formaldehyde and sodium cyanoborohydride (3.49 g) were added to stir the mixture at room temperature for 12 hours. The solvent was distilled off under reduced pressure, and methylene chloride was added to the residue, the organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by column chromatography on silica gel (methylene chloride:methanol=10:1) to obtain the title compound (740 mg).

reactant | 2-Chloro-4,7-dihydro-1,3-benzothiazol-6(5H)-one | 2.0 g | ClC=1SC2=C(N1)CCC(C2)=O | C7H6ClNOS
reactant | ammonium acetate | 8.2 g | C(C)(=O)[O-].[NH4+]
reactant | sodium cyanoborohydride | 4.0 g | C(#N)[BH3-].[Na+]
reactant | Hydrochloric acid | Cl | ClH
reactant | formaldehyde | 4.29 g | C=O | CH2O
reactant | sodium cyanoborohydride | 3.49 g | C(#N)[BH3-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
solvent | methanol | 50 ml | CO | CH4O
product | 2-Chloro-N,N-dimethyl-4,5,6,7-tetrahydrobenzothiazole-6-amine | 740 mg | ClC=1SC2=C(N1)CCC(C2)N(C)C | C9H13ClN2S
